US09062048B2
Step A: 1-(1,4-dioxaspiro[4.5]decan-8-yl)propan-1-ol
Reacting 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) with ethylmagnesium bromide as described in Example 2, Step A yielded the title compound.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | ethylmagnesium bromide | C(C)[Mg]Br
product | 1-(1,4-dioxaspiro[4.5]decan-8-yl)propan-1-ol | O1CCOC12CCC(CC2)C(CC)O | C11H20O3
